US05723411
4-Bromo-5-methoxy-2-methyl-3(2H)-pyridazinone
4,5-Dibromo-2-methyl-3(2H)-pyridazinone (20 g, Maybridge Chemical Company) was cooled in an ice bath and treated successively with methanol (200 mL) and sodium methoxide (12 mL of a 30% solution in methanol). The ice bath was removed and the reaction was allowed to stir at 23° C. for 3 h. The methanol was removed by evaporation at reduced pressure. The residue was partitioned between dichloromethane and water. The organic layer was dried over magnesium sulfate and concentrated to provide the desired product 17 g as a whim solid melting at 146°-147° C. 1 H NMR (CDCl3): 7.7 (1H), 4.0 (3H), 3.8 (3H).

reactant | 4,5-Dibromo-2-methyl-3(2H)-pyridazinone | 20 g | BrC=1C(N(N=CC1Br)C)=O | C5H4Br2N2O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 4-Bromo-5-methoxy-2-methyl-3(2H)-pyridazinone | 17 g | BrC=1C(N(N=CC1OC)C)=O | C6H7BrN2O2
